US06239151B1
A solution of 0.820 g of 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-[(benzyloxy)carbamoyl]-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide in 20 ml methanol was hydrogenated in the presence of 0.240 g of 5% palladium-on-carbon for 1.5 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was triturated with diethyl ether to give 0.480 g of 2′-(D-alanyl)-2(R)-[1(RS)-(hydroxycarbamoyl)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a colorless glass.

reactant | 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-[(benzyloxy)carbamoyl]-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide | 0.820 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)N(NC([C@H](CC(C)C)C(CCCC1=CC=CC=C1)C(NOCC1=CC=CC=C1)=O)=O)CC(C)C | C39H52N4O6
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.240 g | [Pd] | Pd
product | 2′-(D-alanyl)-2(R)-[1(RS)-(hydroxycarbamoyl)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide | 0.480 g | N[C@H](C)C(=O)N(NC([C@H](CC(C)C)C(CCCC1=CC=CC=C1)C(NO)=O)=O)CC(C)C | C24H40N4O4
